US07094865B2
Synthesis of chiral 2-methyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine
A solution of 3,4-dimethoxythiophene (5.18 g), (S)-1,2-propanediol (3.0 g) and p-toluenesulfonic acid monohydrate (100 mg) in toluene (50 ml) was heated at 95° C. during which a continuous stream of nitrogen was passed over the solution. After 30 h the reaction mixture was poured into ethyl acetate, washed with NaHCO3 and the organic phase was concentrated. Subsequent filtration over SiO2 using n-hexane as eluant resulted in pure product (3.90 g). GC-MS: 156 (purity>99%); 1H-NMR (CDCl3): δ 6.30 (2×d, 2H), 4.26 (m, 1H), 4.15 (dd, 1H), 3.82 (dd, 1H), 1.35 (d, 3H) ppm; specific rotation [α]=−46° at 25° C. and 436 nm in hexane (c=0.066).

reactant | 3,4-dimethoxythiophene | 5.18 g | COC1=CSC=C1OC | C6H8O2S
reactant | (S)-1,2-propanediol | 3.0 g | C([C@H](C)O)O | C3H8O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-methyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine | 3.90 g | CC1COC=2C(O1)=CSC2 | C7H8O2S
